US05190969
Preparation of Methyl (2R-cis)-3-(benzyloxymethyl)oxirane carboxylate.
To a solution of 10 ml CCl4, 10 ml CH3CH, and 15 ml of H2O was added 50 mg of RuCl3 --H2O and 1.00 g (5.16 mmole) of (2S-cis)-3-(benzyloxymethyl)oxirane methanol. The solution was cooled to 0° C. and 3.50 g (15.5 mmole) of H5IO6 was added in portions over 15 min with vigorous stirring. The reaction was allowed to stir vigorously for 2 hours. The mixture was poured into 100 ml of Et2O, the organic layer separated and the aqueous layer washed with 20 ml of Et2O. The combined organic layers were washed four times with 50 ml 0.1N NaOH. The aqueous layers were combined, acidified to pH 2, and extracted three times with 50 ml Et2O. The ether layers were dried over MgSO4, filtered and evaporated to yield a pale yellow residue.

reactant | CCl4 | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | H2O | 15 ml | O | H2O
reactant | (2S-cis)-3-(benzyloxymethyl)oxirane methanol | 5.16 mmole, 1.00 g | C(C1=CC=CC=C1)OC[C@@H]1[C@@H](O1)CO | C11H14O3
reactant | Et2O | 100 ml | CCOCC | C4H10O
product | Methyl (2R-cis)-3-(benzyloxymethyl)oxirane carboxylate | C(C1=CC=CC=C1)OC[C@@H]1[C@@H](O1)C(=O)OC | C12H14O4
